US04155913
6.8 g of 2-(2-acetylhydrazino)-7-chloro-5-(o-fluorophenyl)-3H-thieno[2,3-e]-1,4-diazepine are refluxed for 9 hours in 300 ml of absolute xylene. After cooling, the precipitated impurities are filtered off under vacuum. The solvent is then evaporated under reduced pressure and the product recrystallized from ethyl acetate containing active carbon to yield 2-chloro-4-(o-fluorophenyl)-9-methyl-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine, melting point 187°-189° C.

reactant | 2-(2-acetylhydrazino)-7-chloro-5-(o-fluorophenyl)-3H-thieno[2,3-e]-1,4-diazepine | 6.8 g | C(C)(=O)NNC=1CN=C(C2=C(N1)SC(=C2)Cl)C2=C(C=CC=C2)F | C15H12ClFN4OS
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-chloro-4-(o-fluorophenyl)-9-methyl-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine | ClC1=CC=2C(=NCC=3N(C2S1)C(=NN3)C)C3=C(C=CC=C3)F | C15H10ClFN4S
